US07476316B2
N-(4-Vinylbenzyl)-N-Methylglucamine
N-Methylglucamine (9.76 g, 50 mmol) was dissolved in hot methanol (200 mL), whereupon 4-vinylbenzylchloride (7.63 g, 50 mmol) and sodium carbonate (6 g) were added to the reaction. The mixture was allowed to reflux overnight. The solution was filtered, the methanol was removed, the residue taken up in hot chloroform and filtered. A precipitate formed in the eluent, which was heated until all solids dissolved and the solution was allowed to cool to 4° C. Filtration gave 14 g (90% yield) of white powder. 1H-NMR (90 MHz, DMSO-d6, δ): 7.33-7.28 (d, 4H); 6.86-6.83 (dd, 1H); 5.85-5.64 (d, 1H); 5.25-5.12 (d, 1H); 2.11 (s, 3h).

reactant | N-Methylglucamine | 50 mmol, 9.76 g | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | 4-vinylbenzylchloride | 50 mmol, 7.63 g | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
reactant | sodium carbonate | 6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | N-(4-Vinylbenzyl)-N-Methylglucamine | 14 g, 90% yield | C(=C)C1=CC=C(CN(C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)C)C=C1 | C16H25NO5
